US07419986B2
1-Benzhydryl-3-methoxymethylene-azetidine
To a suspension of sodium hydride (60% mineral oil dispersion, 0.10 g, 2.3 mmol) in anhydrous tetrahydrofuran (30 mL) was added (methyoxymethyl)triphenylphosphonium chloride (0.80 g, 2.3 mmol) at 0° C. The mixture was stirred at 0° C. for 40 minutes, then a solution of 1-benzhydryl-azetidin-3-one (0.50 g, 2.1 mmol) in tetrahydrofuran was introduced at 0° C. The resulting mixture was refluxed for 2 hours. The reaction was quenched with water and extracted with methylene chloride (3×50 mL). The organic layer was washed with water (3×50 mL), dried over anhydrous sodium sulfate, filtered and concentrated in vacuum. The crude oil was column chromatographed on silica gel (20% ethyl acetate-hexane). The product-containing fractions were concentrated under vacuum to give 0.29 g (52%) of the title compound as a light yellow solid, m.p. 56-58° C.

reactant | sodium hydride | 2.3 mmol, 0.10 g | [H-].[Na+]
reactant | (methyoxymethyl)triphenylphosphonium chloride | 2.3 mmol, 0.80 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1-benzhydryl-azetidin-3-one | 2.1 mmol, 0.50 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)=O | C16H15NO
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 1-Benzhydryl-3-methoxymethylene-azetidine | 0.29 g, 52% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)=COC | C18H19NO
